US05536727
Step A: Preparation of 4-N-benzoyl-17β-t-butyl-dimethylsilyloxy-4-azaandrost-5-en-3-one
To 17β-t-butyldimethylsilyloxy-4-azaandrost-5-en-3-one (2 g) in pyridine (5 ml) at 5°-10° C. was added benzoyl chloride (2 ml) in CH2Cl2 (10 ml) dropwise. After the addition, the mixture was stirred at 60° C. for 3 hours and poured onto ice-water. The mixture was extracted with methylene chloride, and dried (Na2SO4). Removal of solvent gave the crude product which was recrystallized from CH2Cl2 -hexane to afford the title product.

reactant | 17β-t-butyldimethylsilyloxy-4-azaandrost-5-en-3-one | 2 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3NC(CC[C@]3(C)[C@H]1CC2)=O | C24H41NO2Si
reactant | benzoyl chloride | 2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-N-benzoyl-17β-t-butyl-dimethylsilyloxy-4-azaandrost-5-en-3-one | C(C1=CC=CC=C1)(=O)N1C2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)O[Si](C)(C)C(C)(C)C | C31H45NO3Si
